US06180629B2
A. 4-Phenylbenzo[d]1,2-oxazin-1-one (Ind. J. Chem., 1994, 33B, pp. 742-746)
A mixture of o-benzoyl benzoic acid (0.01 mol) and hydroxylamine hydrochloride (0.01 mol) is refluxed in pyridine (40 ml) for 3 hours, is cooled, and is poured over ice-cold dilute-HCl. The separated solid is filtered off, is dried and is crystallized from ethanol to give the title compound.

reactant | o-benzoyl benzoic acid | 0.01 mol | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | hydroxylamine hydrochloride | 0.01 mol | Cl.NO
reactant | HCl | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-Phenylbenzo[d]1,2-oxazin-1-one | C1(=CC=CC=C1)C1=NOC(C2=C1C=CC=C2)=O | C14H9NO2
